US09226923B2
To a solution of tert-butyl 6-oxo-2-azaspiro[3.3]heptane-2-carboxylate (507 mg, 2.4 mmol) in MeOH (5.0 mL) was added NaBH4 (182 mg, 4.8 mmol) at 0° C. under N2. It was stirred at 0° C. for 30 min. The solution was concentrated by evaporator in vacuo to give crude solid. A saturated solution of NaHCO3 (30 mL) was added. The aqueous mixture was extracted with DCM (4×30 mL). The combined organic solution was dried over anhydrous Na2SO4 and then concentrated by evaporation in vacuo to afford tert-butyl 6-hydroxy-2-azaspiro[3.3]heptane-2-carboxylate (511 mg, 100%) as a white solid.

reactant | tert-butyl 6-oxo-2-azaspiro[3.3]heptane-2-carboxylate | 2.4 mmol, 507 mg | O=C1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C11H17NO3
reactant | NaBH4 | 4.8 mmol, 182 mg | [BH4-].[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 5.0 mL | CO | CH4O
product | tert-butyl 6-hydroxy-2-azaspiro[3.3]heptane-2-carboxylate | 511 mg, 100% | OC1CC2(CN(C2)C(=O)OC(C)(C)C)C1 | C11H19NO3
